US09371319B2
Preparation 79: 6-Bromo-3-chloro-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine
NCS (48 mg, 0.361 mmol) was added to a solution of 6-bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine (Preparation 22, 100 mg, 0.361 mmol) in DMF (1.1 mL). The reaction mixture was stirred overnight at room temperature before being filtered on an SCX-2 column and concentrated under vacuum. The residue was purified via Biotage silica gel column chromatography eluting with (DCM/EtOH 99/1 to 95/5) to afford the title product as a white solid (86 mg, 76%). 1H NMR (500 MHz, CD3OD) δ 4.01 (s, 3H), 7.54 (d, J=0.8 Hz, 1H), 8.05 (s, 1H), 8.28 (s, 1H), 8.47 (d, J=0.8 Hz, 1H). LC (Method B)-MS (ESI, m/z) tR 2.84 min, 312 [(M+H+), 100%].

reactant | NCS | 0.361 mmol, 48 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | 6-bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine | 0.361 mmol, 100 mg | BrC1=CC2=C(C=N1)C=C(N2)C=2C=NN(C2)C | C11H9BrN4
solvent | DMF | 1.1 mL | CN(C)C=O | C3H7NO
product | 6-Bromo-3-chloro-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine | 86 mg, 76% | BrC1=CC2=C(C=N1)C(=C(N2)C=2C=NN(C2)C)Cl | C11H8BrClN4
